US05914328
42a. (R)-N-(t-butyloxycarbonyl)pipecolinic acid
A 10.44 g (80.9 mmol) sample of (R)-pipecolinic acid, previously resolved according to Hemingway, R. J., J. Pharm. Pharmac., 20, 87-91, (1968), was dissolved in 70 mL of dioxane and 40 mL of H2O, and 40 mL of 1M K2CO3 and 39 mL of di-t-butyldicarbonate were added. The reaction was stirred at room temperature for 16 hr, then an additional 10 mL of di-t-butyldicarbonate and 40 mL of 1M K2CO3 were added and the reaction continued for another 24 hr. The solvents were removed on a rotary evaporator, 10% citric acid solution was added to the residue, and the mixture was extracted with CHCl3. The extract was dried over MgSO4, filtered and concentrated to give the title product as a white solid. MS: 247 (M+NH4)+, 230 (M+H)+, 191 (M-C4H8 +NH4)+.

reactant | (R)-pipecolinic acid | N1[C@@H](C(=O)O)CCCC1 | C6H11NO2
reactant | K2CO3 | 1M, 40 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | di-t-butyldicarbonate | 39 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-t-butyldicarbonate | 10 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | K2CO3 | 1M, 40 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 70 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 40 mL | O | H2O
product | (R)-N-(t-butyloxycarbonyl)pipecolinic acid | C(C)(C)(C)OC(=O)N1[C@@H](C(=O)O)CCCC1 | C11H19NO4
